US06043248
A solution of 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine (4.49 g, 15 mmol) in 25 mL of N,N-dimethylformamide at 0° C. is treated with 600 mg (60% in oil, 15 mmol) of sodium hydride and stirred at room temperature for 1 h. The reaction is treated with 1.7 mL (16.5 mmol) of 2-methyl-3-bromopropene and stirred for 2 h. The mixture is diluted with 150 mL of ethyl acetate and washed with 4×50 mL of 1:1 50% saturated sodium chloride/sodium bicarbonate, and dried over potassium carbonate. The crude material is chromatographed over 150 g of silica gel (230-400 mesh), eluting with 25% ethyl acetate/hexanes to give 3.94 g (74%) of 2-chloro-3-(2-methyl-1-propen-3-yl)-4-iodo-6-(1-hydroxyethyl)-pyridine.

reactant | 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine | 15 mmol, 4.49 g | ClC1=NC(=CC(=C1O)I)C(C)O | C7H7ClINO2
reactant | sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 2-methyl-3-bromopropene | 16.5 mmol, 1.7 mL | CC(=C)CBr | C4H7Br
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-3-(2-methyl-1-propen-3-yl)-4-iodo-6-(1-hydroxyethyl)-pyridine | 3.94 g, 74% | ClC1=NC(=CC(=C1CC(=C)C)I)C(C)O | C11H13ClINO
